US08138193B2
Step 1: (1-Benzyl-pyrrolidin-3-yl)-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-amine
5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine (0.1 g, 0.36 mmol), (R)-1-Benzyl-pyrrolidin-3-ylamine (0.07 g, 0.396 mmol, 1.10 equiv.) and DiPEA (0.15 mL, 0.72 mmol, 2.00 equiv.) are mixed in isopropanol (5 mL) under nitrogen. The reaction is heated to 85° C. until completion of the reaction (typically 5 h). The mixture is then allowed to cool down to room temperature and diluted with diethyl ether, causing the precipitation of the title compound as a solid that is used without further treatment.

reactant | 5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 0.36 mmol, 0.1 g | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | (R)-1-Benzyl-pyrrolidin-3-ylamine | 0.396 mmol, 0.07 g, 1.10 equiv. | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | DiPEA | 0.72 mmol, 0.15 mL, 2.00 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1-Benzyl-pyrrolidin-3-yl)-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-amine | C(C1=CC=CC=C1)N1CC(CC1)NC=1C=2N(C(=CN1)Br)N=CN2 | C16H17BrN6
